US07259266B2
Step 1. Preparation of 3-formyl-4-hydroxy-5-methylbenzoic acid
The 4-hydroxy-3-methylbenzoic acid (10.1 g, 66.38 mmole) was suspended in methanesulfonic acid (50 mL) and cooled to 0° C. (ice bath). Hexamethylenetetramine (18.6 g, 132.75 mmole) was added portionwise over 1 hour. The reaction was warmed to room temperature followed by heating to 90° C. (oil bath) for 5 hours. The reaction was allowed to cool to room temperature and stired for 18 hours. The contents were poured into water (100 mL) and extracted with EtOAc (2×100 mL). The combined extracts were washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo to give an off-white solid (9.0 g, 75%). 1H NMR (DMSO/400 MHz) 12.84 (brs, 1H), 11.40 (s, 1H), 10.09 (s, 1H), 8.20 (s, 1H), 7.98 (s, 1H), 2.21 (s, 3H).

reactant | 4-hydroxy-3-methylbenzoic acid | 66.38 mmole, 10.1 g | OC1=C(C=C(C(=O)O)C=C1)C | C8H8O3
reactant | Hexamethylenetetramine | 132.75 mmole, 18.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | 100 mL | O | H2O
solvent | methanesulfonic acid | 50 mL | CS(=O)(=O)O | CH4O3S
product | 3-formyl-4-hydroxy-5-methylbenzoic acid | 9.0 g, 75% | C(=O)C=1C=C(C(=O)O)C=C(C1O)C | C9H8O4
